US06245925B1
(2) Synthesis of (2-trichlorosilylethyl)trichlorosilylcyclohexane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 121.8 g (0.50 mol) of 4-(2-trichlorosilylethyl)-1-cyclohexene and 0.1 g of a 20 wt % isopropanol solution of chloroplatinic acid, which were heated at 80° C. After the internal temperature became constant, 74.5 g (0.55 mol) of trichlorosilane was added dropwise over 10 hours. After the completion of addition, the reaction solution was stirred for 8 hours at 80° C. The reaction solution was distilled, collecting 157.3 g of (2-trichlorosilylethyl)trichlorosilylcyclohexane as a fraction having a boiling point of 122-126° C./0.1 mmHg (yield 83.0%).

reactant | 4-(2-trichlorosilylethyl)-1-cyclohexene | 0.50 mol, 121.8 g | Cl[Si](CCC1CC=CCC1)(Cl)Cl | C8H13Cl3Si
reactant | trichlorosilane | 0.55 mol, 74.5 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
solvent | isopropanol | C(C)(C)O | C3H8O
product | (2-trichlorosilylethyl)trichlorosilylcyclohexane | yield 83.0% | Cl[Si](CCC1(CCCCC1)[Si](Cl)(Cl)Cl)(Cl)Cl | C8H14Cl6Si2
